US06239152B1
5-(S)-Acetamidomethyl-3-(4′-methylthio-3′-fluorophenyl)oxazolidine-2-one
Prepared according to Method A of the General Procedures for Preparation of 5-(S)-(N-Acylaminomethyl)-3-[4′-(substituted)thio-3′-fluorophenyl]oxazolidine-2-ones from BAL resin immobilized 5-(S)-acetamidomethyl-3-[4′-acetylthio-3′-fluorophenyl]oxazoli-dine-2-one with methyl iodide (0.05 mL, 0.81 mmol) in N-methylpyrrolidine-2-one (1 mL). The synthesis was performed at r.t. overnight, and the crude cleaved product purified by TLC (eluent: 10% methanol in dichloromethane). Yield 6.3 mg (52%). MS: 299 [M+H]+. 1H NMR.

reactant | 5-(S)-acetamidomethyl-3-[4′-acetylthio-3′-fluorophenyl]oxazoli-dine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C)=O)F | C14H15FN2O4S
reactant | methyl iodide | 0.81 mmol, 0.05 mL | CI | CH3I
solvent | N-methylpyrrolidine-2-one | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(S)-Acetamidomethyl-3-(4′-methylthio-3′-fluorophenyl)oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC)F | C13H15FN2O3S
